datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COC(=O)c1ccccc1[O:21][H:20].COc1ccc2nccc(C(O)C3CCCC[NH:10]3)c2c1>>COC(=O)c1ccccc1[O-:21].COc1ccc2nccc(C(O)C3CCCC[NH+:10]3[H:20])c2c1 10=20;20,21=21",
"CC(C)CCC1=C([O:21][H:20])C(=O)c2ccccc2C1=O.C[NH+]1C[C@H](C(=O)[O-:10])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12>>CC(C)CCC1=C([O-:21])C(=O)c2ccccc2C1=O.C[NH+]1C[C@H](C(=O)[O:10][H:20])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12 10=20;20,21=21",
"CC(/C=C(\C)Nc1ccccc1)=[N:10]/c1ccccc1.C[N+](C)(C)c1ccccc1[O:21][H:20]>>CC(/C=C(\C)Nc1ccccc1)=[N+:10](/c1ccccc1)[H:20].C[N+](C)(C)c1ccccc1[O-:21] 10=20;20,21=21",
"O=C([O-])CCCCCCCCC[NH2:10].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>O=C([O-])CCCCCCCCC[NH2+:10][H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"Cc1cn[n:10]c(C)c1.O=C1/C(=N\[O:21][H:20])C=C(S(=O)(=O)[O-])c2cn[nH]c21>>Cc1cn[n+:10]([H:20])c(C)c1.O=C1/C(=N\[O-:21])C=C(S(=O)(=O)[O-])c2cn[nH]c21 10=20;20,21=21",
"C=CC(Cl)C(=O)[O:21][H:20].O=C(CC[NH2:10])Oc1ccc([N+](=O)[O-])cc1>>C=CC(Cl)C(=O)[O-:21].O=C(CC[NH2+:10][H:20])Oc1ccc([N+](=O)[O-])cc1 10=20;20,21=21",
"NC#[N:10].c1ccc2c(c1)cc1ccccc1[n+:21]2[H:20]>>NC#[N+:10][H:20].c1ccc2c(c1)cc1ccccc1[n:21]2 10=20;20,21=21",
"Nc1ccc([O-:10])cc1[O-].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Nc1ccc([O:10][H:20])cc1[O-].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[NH:10]CC(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC[NH+:10](CC(=O)[O-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC(C)(S)C[NH2:10].COC(C(F)(F)F)=[O+:21][H:20]>>CC(C)(S)C[NH2+:10][H:20].COC(C(F)(F)F)=[O:21] 10=20;20,21=21",
"C#CCCCCCC[NH2:10].CCNc1nc(NCC)[n+:21]([H:20])c(NCC)n1>>C#CCCCCCC[NH2+:10][H:20].CCNc1nc(NCC)[n:21]c(NCC)n1 10=20;20,21=21",
"Cc1cc(C)c([O-:10])cc1C(C)C.O=C(C[NH2+:21][H:20])c1ccc(O)cc1>>Cc1cc(C)c([O:10][H:20])cc1C(C)C.O=C(C[NH2:21])c1ccc(O)cc1 10=20;20,21=21",
"C1CC2CCNC2=[N:10]C1.COc1ccc([N:21](C(=S)c2ccc(Cl)cc2)[H:20])cc1>>C1CC2CCNC2=[N+:10]([H:20])C1.COc1ccc([N-:21]C(=S)c2ccc(Cl)cc2)cc1 10=20;20,21=21",
"C1CNCCNCC[NH:10]C1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CNCCNCC[NH+:10]([H:20])C1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCCCCCCCC[NH:10]Cc1ccc(C)cc1.COc1ccc(CC[NH2+:21][H:20])cc1>>CCCCCCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].COc1ccc(CC[NH2:21])cc1 10=20;20,21=21",
"C[NH+:21](CCN)[H:20].O=[N+]([O-])c1ccc([O-:10])c(C[NH+]2CCOCC2)c1>>C[NH:21]CCN.O=[N+]([O-])c1ccc([O:10][H:20])c(C[NH+]2CCOCC2)c1 10=20;20,21=21",
"CSc1nc2cc3c(cc2[n-:10]1)CCCC3.Nc1ccc(S(=O)(=O)[N:21](c2ccncn2)[H:20])cc1>>CSc1nc2cc3c(cc2[n:10]1[H:20])CCCC3.Nc1ccc(S(=O)(=O)[N-:21]c2ccncn2)cc1 10=20;20,21=21",
"CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O-:10].COc1cc(C)nc(NN)[n+:21]1[H:20]>>CC[NH+]1CCCC1CNC(=O)c1c(OC)ccc([N+](=O)[O-])c1[O:10][H:20].COc1cc(C)nc(NN)[n:21]1 10=20;20,21=21",
"CC(O)C[N:10](CCO)C(C)(C)C.CC[C@]12CCC[NH+]3CC[C@@]4(c5cccc(OC)c5[NH+:21]([H:20])[C@H]4CC1)[C@@H]32>>CC(O)C[N+:10](CCO)(C(C)(C)C)[H:20].CC[C@]12CCC[NH+]3CC[C@@]4(c5cccc(OC)c5[NH:21][C@H]4CC1)[C@@H]32 10=20;20,21=21",
"CO[n+]1ccc([O:21][H:20])cc1.COc1ccc([N-:10]C(=S)c2cccc(Br)c2)cc1>>CO[n+]1ccc([O-:21])cc1.COc1ccc([N:10](C(=S)c2cccc(Br)c2)[H:20])cc1 10=20;20,21=21",
"CN(C)C(N(C)C)=[N:10]C.O=C(Cc1nnnn1-c1ccccc1)[O:21][H:20]>>CN(C)C(N(C)C)=[N+:10](C)[H:20].O=C(Cc1nnnn1-c1ccccc1)[O-:21] 10=20;20,21=21",
"N#CC[N+:21]1([H:20])CCCCC1.NC(Nc1nccc(c2csc(N)n2)n1)=[NH:10]>>N#CC[N:21]1CCCCC1.NC(Nc1nccc(c2csc(N)n2)n1)=[NH+:10][H:20] 10=20;20,21=21",
"Cc1c[n:10]cc[nH+]1.[O-]c1[nH+]c([O:21][H:20])c(Br)c[n+]1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O>>Cc1c[n+:10]([H:20])cc[nH+]1.[O-]c1[nH+]c([O-:21])c(Br)c[n+]1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O 10=20;20,21=21",
"CC[N+:21](CC)(CC(=O)NC1CCc2ccccc21)[H:20].CS[C@H]1CCC[C@@H]1[N:10](C)C>>CC[N:21](CC)CC(=O)NC1CCc2ccccc21.CS[C@H]1CCC[C@@H]1[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CC(C)(C)[N:10]1C2CCCC21.Cc1[nH]cnc1CSCCNC(=[NH2+])NCCCc1c[nH]c[n+:21]1[H:20]>>CC(C)(C)[N+:10]1([H:20])C2CCCC21.Cc1[nH]cnc1CSCCNC(=[NH2+])NCCCc1c[nH]c[n:21]1 10=20;20,21=21",
"CN(C)c1ccc2nc3ccc(N)cc3[n:10]c2c1.O=S(=O)(c1nccs1)[NH:21][H:20]>>CN(C)c1ccc2nc3ccc(N)cc3[n+:10]([H:20])c2c1.O=S(=O)(c1nccs1)[NH-:21] 10=20;20,21=21",
"CC(=O)/C(=N\[O-:10])C(C)C.CCc1ccc(C2CCC[NH+]2C)c[n+:21]1[H:20]>>CC(=O)/C(=N\[O:10][H:20])C(C)C.CCc1ccc(C2CCC[NH+]2C)c[n:21]1 10=20;20,21=21",
"CCCCCCCCCCC[NH2:10].Nc1ccccc1C(=O)[N:21](N)[H:20]>>CCCCCCCCCCC[NH2+:10][H:20].Nc1ccccc1C(=O)[N-:21]N 10=20;20,21=21",
"Cc1ccc([N+:21](=CN(C)C)[H:20])cc1.O=C1C=CC(=O)c2c1cccc2[O-:10]>>Cc1ccc([N:21]=CN(C)C)cc1.O=C1C=CC(=O)c2c1cccc2[O:10][H:20] 10=20;20,21=21",
"C1CCC2(CC1)N1CCC[N:10]12.C=CC[N+:21](CC(C)O)(CC(C)O)[H:20]>>C1CCC2(CC1)N1CCC[N+:10]12[H:20].C=CC[N:21](CC(C)O)CC(C)O 10=20;20,21=21",
"C=CC(CC(C)(C)CC(C)(C)C)c1ccc2ccc[n+:21]([H:20])c2c1O.CN1C(=S)[N-:10]C(=O)C12CCCCC2>>C=CC(CC(C)(C)CC(C)(C)C)c1ccc2ccc[n:21]c2c1O.CN1C(=S)[N:10]([H:20])C(=O)C12CCCCC2 10=20;20,21=21",
"CC(=O)c1c(C(=O)[O-:10])cccc1[N+](=O)[O-].COc1ccc(C(=O)[O:21][H:20])c(C)c1>>CC(=O)c1c(C(=O)[O:10][H:20])cccc1[N+](=O)[O-].COc1ccc(C(=O)[O-:21])c(C)c1 10=20;20,21=21",
